US04904651
b. Diethyl (2-ethylphenyl)aminomethylenemalonate
A mixture of 2-ethylaniline (11.7 g) and diethyl ethoxymethylene malonate (25.0 g) were warmed together at 80° C. for one hour. After cooling, the mixture was poured with stirring into a mixture of 150 ml of ether and 75 ml of hexane. After cooling the solution in an ice bath colorless needles precipitated and were collected by filtration. There was obtained 26.7 g (95%) of the title product; tlc, Rf =0.73, silica gel, ethyl acetate:hexane (1:1).

reactant | 2-ethylaniline | 11.7 g | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | diethyl ethoxymethylene malonate | 25.0 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | hexane | 75 ml | CCCCCC | C6H14
product | Diethyl (2-ethylphenyl)aminomethylenemalonate | 26.7 g, 95% | C(C)C1=C(C=CC=C1)NC=C(C(=O)OCC)C(=O)OCC | C16H21NO4
